US04197240
α-(Benzyloxycarbonyl)amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid (0.1 mole) is dissolved in tetrahydrofuran (THF). The temperature of the solution is maintained at about -10° C. and 0.2 mole of isobutylchloroformate is added. After stirring for about 30 minutes at -10° C., 0.1 mole of 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid in a 50/50 THF/water solution containing 0.1 mole of triethylamine is added to the above formed solution. This mixture is stirred for 30 minutes at -10° C. and then the temperature is raised to about 20° C. Stirring is continued for an additional 30 minutes. The pH is adjusted to 4.5 to 5.5, and the coupled product is extracted into ethyl acetate. The ethyl acetate is dried over magnesium sulfate, filtered and evaporated to give the coupled product, 6-[[(benzyloxycarbonyl)amino]-hydroxy-3-(methoxymethyl)-phenyl]acetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid.

reactant | α-(Benzyloxycarbonyl)amino-4-hydroxy-3-(methoxymethyl)benzeneacetic acid | 0.1 mole | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1=CC(=C(C=C1)O)COC | C18H19NO6
reactant | isobutylchloroformate | 0.2 mole | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | 0.1 mole | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF water | O1CCCC1.O
product | 3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | CC1(C(N2C(CC2S1)=O)C(=O)O)C | C8H11NO3S
